US07368578B2
A mixture of 4-chloromethyl-2-(2-furyl)-5-methyl-1,3-oxazole (4.62 g), 3-bromo-4-hydroxybenzaldehyde (4.28 g), potassium carbonate (2.94 g) and N,N-dimethylformamide (50 mL) was stirred at 90° C. for 4 hrs. Water was poured into the reaction mixture, and the precipitated crystals were collected by filtration to give 3-bromo-4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzaldehyde as pale-brown crystals (5.20 g, yield 67%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 146-147° C.

reactant | 4-chloromethyl-2-(2-furyl)-5-methyl-1,3-oxazole | 4.62 g | ClCC=1N=C(OC1C)C=1OC=CC1 | C9H8ClNO2
reactant | 3-bromo-4-hydroxybenzaldehyde | 4.28 g | BrC=1C=C(C=O)C=CC1O | C7H5BrO2
reactant | potassium carbonate | 2.94 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 3-bromo-4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzaldehyde | 5.20 g, yield 67% | BrC=1C=C(C=O)C=CC1OCC=1N=C(OC1C)C=1OC=CC1 | C16H12BrNO4
